US07049438B2
4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-isopropoxyquinazoline
Using an analogous procedure to that described in Example 20, 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-isopropoxyquinazoline (0.33 g) was reacted with trifluoroacetic acid. There was thus obtained the title compound (0.17 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.55 (d, 6H), 3.85 (s, 3H), 5.1 (m, 1H), 6.8 (s, 1H), 6.92 (s, 1H), 7.0 (m, 1H), 7.58 (d, 1H), 7.65 (d, 1H), 8.85 (s, 1H); Mass Spectrum: M+H+ 360 and 362.

reactant | 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-isopropoxyquinazoline | 0.33 g | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)OC)Cl)OC(C)C | C25H24ClN3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-isopropoxyquinazoline | 0.17 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC(C)C)O)C=C(C=C1)OC | C18H18ClN3O3
